US07425568B2
6-Hydroxy-2-(4-trifluoromethylphenyl)chroman-4-one was prepared as described for 2-(3-fluorophenyl)-6-hydroxychroman-4-one in Example 9(a) starting from 2.0 g of 2′,5′-dihydroxyacetophenone and 2.1 ml of 4-trifluoromethylbenzaldehyde. The product was purified by column chromatography using heptane-ethyl acetate (2:1) as an eluant. Further purification was carried out by column chromatography using toluene-ethyl acetate (4:1) as an eluant. Finally the product was crystallised from ethanol. 1H NMR (400 MHz, d6-DMSO) δ: 9.47 (s, 1H), 7.82-7.76 (m, 4H), 7.13 (d, 1H, J 3.0 Hz), 7.06 (dd, 1H, J 8.8, 3.0 Hz), 6.99 (d, 1H, J 8.8 Hz), 5.70 (dd, 1H, J 12.9, 2.9 Hz), 3.16 (dd, 1H, J −16.9, 12.9 Hz), 2.86 (dd, 1H, J −16.9, 2.9 Hz).

reactant | 2-(3-fluorophenyl)-6-hydroxychroman-4-one | FC=1C=C(C=CC1)C1OC2=CC=C(C=C2C(C1)=O)O | C15H11FO3
reactant | 2′,5′-dihydroxyacetophenone | 2.0 g | OC1=C(C=C(C=C1)O)C(C)=O | C8H8O3
reactant | 4-trifluoromethylbenzaldehyde | 2.1 ml | FC(C1=CC=C(C=O)C=C1)(F)F | C8H5F3O
product | 6-Hydroxy-2-(4-trifluoromethylphenyl)chroman-4-one | OC=1C=C2C(CC(OC2=CC1)C1=CC=C(C=C1)C(F)(F)F)=O | C16H11F3O3
